US07544689B2
(3R)-2-Methyl-3-(trityl-amino)-pentan-2-ol
To a stirred solution of (3R)-3-(trityl-amino)-pentan-2-one (0.87 g, 1 eq, 2.54 mmol) in Et2O (100 mL) under an argon atmosphere at room temperature, was added methylmagnesium iodide (3 M in ether, 2.54 mL, 3 eq, 7.62 mmol) dropwise. The solution was placed in a preheated oil bath at 45° C. and refluxed at this temperature for 16 h. The mixture was recooled to 0° C., H2O (100 mL) added, the solution filtered through Celite, and the Celite washed with more Et2O (50 mL). The combined organic phase was separated, the aqueous phase was extracted with Et2O (2×50 mL), and the combined organic phase washed with brine (50 mL), dried (NgSO4) and evaporated in vacuo. The residue was purified by silica gel colunm chromatography, eluted with hexane:ether (100:0→90:10) to afford the title compound as a light yellow oil. Yield: 0.21 g (23%). 1H-NMR (d6-DMSO, 250 MHz): δ 0.26 (t, J=7.42 Hz, —NHCH (CH2CH3)CH(CH3)OH), 1.00 & 1.25 (2×s, 6H, —NHCH(CH2CH3) C(CH 3)2 OH), 0.72-1.43 (m, 2H, —NHCH(CH2CH3)C(CH3)2OH), 1.84 (m, 1H, —NHCH (CH2CH3)C(CH3)2OH), 2.90 (m, 1H, —NHCH(CH2CH3)C(CH3)2OH), 4.32 (s, 1H, —NHCH(CH2CH3) C(CH3)2OH), 7.17-7.46 (m, 15H, 3×Ph).

reactant | (3R)-3-(trityl-amino)-pentan-2-one | 2.54 mmol, 0.87 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)=O)CC | C24H25NO
reactant | methylmagnesium iodide | 7.62 mmol, 3 M, 2.54 mL, 3 eq | C[Mg]I
reactant | H2O | 100 mL | O | H2O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | (3R)-2-Methyl-3-(trityl-amino)-pentan-2-ol | CC(C)([C@@H](CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C25H29NO
